US06555700B1
A solution of 1,3-dicyclohexylcarbodiimide (23.7 g) and 4-(N,N-dimethylamino)pyridine (15.9 g) in methylene chloride (200 ml) was added to a solution of 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-3-hydroxypropane (33.6 g) and z-octadeca-9-enoic acid (30 g) in methylene chloride (400 ml) under nitrogen at room temperature. On completion of reaction as evidenced by tic analysis the solution was diluted with hexane, filtered, concentrated and purified by dry column chromatography to yield 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-3-(z-octadeca-9-enoyloxy)propane as a free flowing pale yellow oil.

reactant | 1,3-dicyclohexylcarbodiimide | 23.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-3-hydroxypropane | 33.6 g | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)(=O)OCCCO | C21H36O3
reactant | z-octadeca-9-enoic acid | 30 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
catalyst | 4-(N,N-dimethylamino)pyridine | 15.9 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-3-(z-octadeca-9-enoyloxy)propane | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)(=O)OCCCOC(CCCCCCC\C=C/CCCCCCCC)=O | C39H68O4
